US06239151B1
In a manner analogous to that described in Example 1, parts (iii)-(vii) and Example 8, from 2(R)-[1(S)-(tert-butoxycarbonyl)-4-cyclohexylbutyl]-4-methylvaleric acid and benzylhydrazine and using 1,2,3-triazole-1-acetic acid in place of N-tert.butoxycarbonyl-β-alanine in Example 8, there was obtained 2′-benzyl-2(R)-[4-cyclohexyl-1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbonyl]butyl]-2′-[2-(1,2,3-triazol-1-yl)acetyl]valerohydrazide in the form of a white solid.

reactant | 2(R)-[1(S)-(tert-butoxycarbonyl)-4-cyclohexylbutyl]-4-methylvaleric acid | C(C)(C)(C)OC(=O)[C@@H](CCCC1CCCCC1)[C@H](C(=O)O)CC(C)C | C21H38O4
reactant | benzylhydrazine | C(C1=CC=CC=C1)NN | C7H10N2
reactant | 1,2,3-triazole-1-acetic acid | N1(N=NC=C1)CC(=O)O | C4H5N3O2
product | 2′-benzyl-2(R)-[4-cyclohexyl-1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbonyl]butyl]-2′-[2-(1,2,3-triazol-1-yl)acetyl]valerohydrazide | C(C1=CC=CC=C1)N(NC([C@H](CCC)[C@H](CCCC1CCCCC1)C(=O)OC1OCCCC1)=O)C(CN1N=NC=C1)=O | C32H47N5O5
